US08729061B2
(2S,4R)-4-(2-chloro-4-morpholinophenylsulfonyl)-1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-N—((S)-1-(cyclopropylamino)-1,2-dioxopentan-3-yl)pyrrolidine-2-carboxamide
The title compound was prepared in analogy to Example 1, using (2S,4R)-4-(2-Chloro-4-morpholin-4-yl-benzenesulfonyl)-1-[1-(4-chloro-phenyl)-cyclopropane carbonyl]-pyrrolidine-2-carboxylic acid and (S)-3-Amino-2-oxo-pentanoic acid cyclopropylamide in step 1. MS (m/e)=705.19 [M+H+].

reactant | (2S,4R)-4-(2-Chloro-4-morpholin-4-yl-benzenesulfonyl)-1-[1-(4-chloro-phenyl)-cyclopropane carbonyl]-pyrrolidine-2-carboxylic acid | ClC1=C(C=CC(=C1)N1CCOCC1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)C1=CC=C(C=C1)Cl)C(=O)O | C25H26Cl2N2O6S
reactant | (S)-3-Amino-2-oxo-pentanoic acid cyclopropylamide | C1(CC1)NC(C([C@H](CC)N)=O)=O | C8H14N2O2
product | (2S,4R)-4-(2-chloro-4-morpholinophenylsulfonyl)-1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-N—((S)-1-(cyclopropylamino)-1,2-dioxopentan-3-yl)pyrrolidine-2-carboxamide | ClC1=C(C=CC(=C1)N1CCOCC1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)C1=CC=C(C=C1)Cl)C(=O)N[C@H](C(C(=O)NC1CC1)=O)CC | C33H38Cl2N4O7S
